US07932247B2
1,1-dimethylethyl (2S)-4-[(3-bromophenyl)methyl]-2-methyl-1-piperazine carboxylate
A solution of 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (100 mg, 0.5 mmol) in CH2Cl2 (5 mL) was mixed with 3-bromo benzaldehyde (0.06 mL, 0.5 mmol) and NaB(OAc)3H (0.16 g, 0.75 mmol). The resulting mixture was stirred for 12 hours, diluted with dichloromethane (30 mL) and washed with brine (50 mL). The organic layer was collected, dried over Na2SO4 and concentrated. Separation via a combiflash system then afforded the title compound (150 mg, 81%): LC/MS: m/z, 369 (M+H); 1HNMR (MeOD) δ 1.26 (3H, d), 1.47 (9H, s), 2.0 (1H, m), 2.1 (1H, m), 2.6 (1H, m), 2.8 (1H, m), 3.1 (1H, m), 3.3 (2H, s), 3.4 (1H, m), 3.5 (1H, m), 3.8 (1H, m), 4.2 (1H, m), 4.88 (1H, s), 7.25 (1H, m), 7.3 (1H, m), 7.4 (1H, m), 7.55 (1H, s).

reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.5 mmol, 100 mg | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 3-bromo benzaldehyde | 0.5 mmol, 0.06 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | NaB(OAc)3H | 0.75 mmol, 0.16 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl (2S)-4-[(3-bromophenyl)methyl]-2-methyl-1-piperazine carboxylate | 150 mg, 81% | BrC=1C=C(C=CC1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H25BrN2O2
